US07714161B2
25. Preparation of 5-benzyloxy-3,4′-difluorostilbene
A mixture of 5-benzyloxy-3-fluorophenyl Bromide (2.81 g, 10 mmol), Pd(OAc)2 (0.067 g, 0.3 mmol), tri-o-tolylphosphine (0.18 g, 0.6 mmol), 4-fluorostyrene (1.53 g, 12.5 mmol), and Et3N (1.26 g, 12.5 mmol) in 20 ml dry DMF was stirred at 100° C. for 24 hours under N2. The dark mixture was distributed between EtOAc and 1N HCl. The organic layer was separated and washed with water and brine, dried over Na2SO4, filtered, and evaporated. After flash column, the desired product (2.93 g, 91%) was obtained. Data are: 1H NMR (CDCl3, 300 MHz) δ 7.49-7.34 (m, 7H), 7.08-6.81 (m, 6H), 6.60 (dt, 1H), 5.08 (s, 2H); 19F NMR (CDCl3, 282 MHz) δ-31666.54 (t), −32136.54 (t). HRMS (EI+) found 322.1169 M+, calcd 322.1169 for C21H16F2O.

reactant | 5-benzyloxy-3-fluorophenyl Bromide | 10 mmol, 2.81 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)Br)F | C13H10BrFO
reactant | 4-fluorostyrene | 12.5 mmol, 1.53 g | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | Et3N | 12.5 mmol, 1.26 g | CCN(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.3 mmol, 0.067 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | tri-o-tolylphosphine | 0.6 mmol, 0.18 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-benzyloxy-3,4′-difluorostilbene | 2.93 g, 91% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C=CC1=CC=C(C=C1)F)F | C21H16F2O
